US04329454
To 12 ml. of water were added with stirring 571 mg. of 3-mercapto-4-ethyl-5-oxo-6-hydroxy-4,5-dihydro-1,2,4-triazine. The pH of the resulting mixture was 2.3 and was adjusted to 6.6 by addition of 2.9 ml. of 1 N sodium hydroxide. 7-(2,5-Dichlorophenylthio)acetamido-3-acetoxymethyl-3-cephem-4-carboxylic acid, sodium salt (1.54 g., 3 mmol.) was added, and the resulting mixture was treated in accordance with the procedure described in Example 8 to obtain 7-(2,5-dichlorophenylthio)acetamido-3-(4-ethyl-5-oxo-6-hydroxy-4,5-dihydro-1,2,4-triazin-3-ylthio)methyl-3-cephem-4-carboxylic acid.

reactant | 3-mercapto-4-ethyl-5-oxo-6-hydroxy-4,5-dihydro-1,2,4-triazine | SC1=NN=C(C(N1CC)=O)O | C5H7N3O2S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | 7-(2,5-Dichlorophenylthio)acetamido-3-acetoxymethyl-3-cephem-4-carboxylic acid | ClC1=C(C=C(C=C1)Cl)SCC(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O | C18H16Cl2N2O6S2
reactant | sodium | 3 mmol, 1.54 g | [Na] | Na
solvent | water | O | H2O
product | 7-(2,5-dichlorophenylthio)acetamido-3-(4-ethyl-5-oxo-6-hydroxy-4,5-dihydro-1,2,4-triazin-3-ylthio)methyl-3-cephem-4-carboxylic acid | ClC1=C(C=C(C=C1)Cl)SCC(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(C(N2CC)=O)O)C(=O)O)C1=O | C21H19Cl2N5O6S3
